US04025637
A stirred mixture of ethyl 2-(3-amino-4-hydroxyphenyl)propionate (8.4 g.), potassium ethylxanthate (6.33 g.), ethanol (38 ml.) and water (6.5 ml.) was heated under reflux for 4 hours. The solution was evaporated to half volume and diluted with water (65 ml.). The mixture was acidified with 2N-hydrochloric acid and extracted several times with ether. The ethereal solution was washed with water, then dried with anhydrous sodium sulphate, and evaporated to give ethyl 2-(2-thioxo-2,3-dihydrobenzoxazol-5-yl)propionate as an oil. Dry chlorine was passed into a solution of the thione (9 g.) in freshly dried and distilled chloroform (150 ml.) with stirring for 4 hours. The solution was then washed with water, N-sodium hydroxide solution, then water (3x). The dried (Na2SO4) organic solution was evaporated to yield ethyl 2-(2-chloro-5-benzoxazolyl)propionate as a brown oil which was shown to be a single compound by thin layer chromatography.

reactant | ethyl 2-(3-amino-4-hydroxyphenyl)propionate | 8.4 g | NC=1C=C(C=CC1O)C(C(=O)OCC)C | C11H15NO3
reactant | potassium ethylxanthate | 6.33 g | C(C)OC(=S)[S-].[K+]
reactant | ethanol | 38 ml | C(C)O | C2H6O
solvent | water | 6.5 ml | O | H2O
product | ethyl 2-(2-thioxo-2,3-dihydrobenzoxazol-5-yl)propionate | S=C1OC2=C(N1)C=C(C=C2)C(C(=O)OCC)C | C12H13NO3S
